US05965741
A suspension of 3-formyl-4-hydroxybenzoic acid (3.9 g, 23.5 mmol) in of methanol (50 ml) was cooled below 0° C. To the suspension was added concentrated H2SO4 (3 ml) and the reaction was allowed to warm to ambient temperature and stirred for 60 hours. The reaction was heated to reflux for 12 hours, the solvent evaporated and residue subjected to chromatography (eluant: ethyl ether/hexane) to give methyl 3-formyl-4-hydroxybenzoate as a white solid (3.55 g, 84%).

reactant | 3-formyl-4-hydroxybenzoic acid | 23.5 mmol, 3.9 g | C(=O)C=1C=C(C(=O)O)C=CC1O | C8H6O4
reactant | H2SO4 | 3 ml | OS(=O)(=O)O | H2O4S
reactant | methanol | 50 ml | CO | CH4O
product | methyl 3-formyl-4-hydroxybenzoate | 3.55 g, 84% | C(=O)C=1C=C(C(=O)OC)C=CC1O | C9H8O4
